Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / Sulfa (Sulfonamide Antibiotics) / Lisinopril / Reglan
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ with hx of recent urosepsis, NSTEMI and stroke 
one week prior to admission presenting with unwitnessed fall.

Patient presenting following unwitnessed fall at ___ 
___. Per report, she was sitting in an arm 
chair at rehab on day of admission and tried to get up, fell 
forward hitting her face on the floor. She does not walk at 
baseline since her stroke. Patient does not recall any pre- or 
post-dromal
symptoms.

Notably, found to have a large hematoma to forehead and taken in 
for evaluation.

She is confused and AOx2 at baseline, at current mental status 
per her son at bedside. 

Notably, the patient was admitted was admitted from ___ to 
___ service. During that admission, she was diagnosed with 
acute embolic strokes (greatest in R ACA, presumed due to 
a-fib), STEMI s/p ___ on ___, E. coli UTI. 
Discharged to rehab.

 
Past Medical History:
- Coronary artery disease s/p CABG in ___  (LIMA to the LAD, 
SVGs to D1/OM1 [s/p DES ___, SVGs to RCA)
- Multifocal mostly L ACA embolic stroke (___)
- Chronic lymphocytic leukemia  
- GERD  
- Hypertension  
- Dementia  
- Mitral regurgitation with mild pulmonary hypertension  
- Thyroid nodule s/p FNA in ___ nodules stable in ___  
- Stroke  
- Shingles  
- C. Dif enterocolitis  
- Anxiety  
- Prediabetes, A1C on ___ was 6.3%  
- Heart failure with preserved ejection fraction  
- Parkinsonism ___ Reglan  

Surgical Hx:  
- Open cholecystectomy  
- Open appendectomy  
- Supracervical hysterectomy (?open)  
- CABG  
- Vein stripping  

 
Social History:
___
Family History:
Mother with lung cancer and heart disease. Denies h/o breast, 
ovarian, uterine, cervical, or colon cancers. 
 
Physical Exam:
Admission Physical Exam:
========================
GENERAL: NAD  
HEENT: 3x3cm hematoma on left forehead, no active bleeding; 
PERRL
HEART: RRR, S1/S2, ___ systolic murmur loudest at apex; tender 
to palpation over left chest wall
LUNGS: CTAB, no wheezes, rales, rhonchi 
ABDOMEN: Nondistended, nontender in all quadrants 
EXTREMITIES: No cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox2 (to ___, but year ___, strength ___ bilaterally 
though left leg limited by pain, CN II-XII intact
SKIN: Warm and well perfused  

Discharge Diagnosis:
====================
GENERAL: NAD  
HEENT: 3x3cm hematoma on left forehead, no active bleeding; 
PERRL
HEART: RRR, S1/S2, ___ systolic murmur loudest at apex; tender 
to palpation over left chest wall and shoulder
LUNGS: mild bibasilar crackles
ABDOMEN: Nondistended, nontender in all quadrants 
EXTREMITIES: No cyanosis, clubbing, or 1+ non pitting edema 
PULSES: 2+ DP pulses bilaterally 
NEURO: A&Ox2 (strength ___ bilaterally though left leg limited 
by pain, CN II-XII intact
SKIN: Warm and well perfused  

 
Pertinent Results:
Admission Labs:
___ 01:25PM BLOOD WBC-9.4 RBC-3.12* Hgb-8.4* Hct-27.2* 
MCV-87 MCH-26.9 MCHC-30.9* RDW-15.1 RDWSD-47.8* Plt ___
___:25PM BLOOD Neuts-81.7* Lymphs-7.3* Monos-8.3 Eos-1.5 
Baso-0.5 Im ___ AbsNeut-7.64* AbsLymp-0.68* AbsMono-0.78 
AbsEos-0.14 AbsBaso-0.05
___ 01:25PM BLOOD ___ PTT-29.3 ___
___ 01:25PM BLOOD Glucose-151* UreaN-19 Creat-0.8 Na-138 
K-4.4 Cl-102 HCO3-21* AnGap-15
___ 01:25PM BLOOD cTropnT-0.04*
___ 06:01AM BLOOD CK-MB-2 cTropnT-0.03*
___ 06:01AM BLOOD Calcium-8.4 Phos-4.2 Mg-1.7
___ 04:10PM BLOOD Lactate-1.4

Microbiology:
=============
Time Taken Not Noted     Log-In Date/Time: ___ 2:40 pm
      URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed skin/genital flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      CITROBACTER KOSERI.    >100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             CITROBACTER ___
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    ___ I
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

Imaging:
=======
CT Head W/out Contrast ___:
IMPRESSION:  
1. Large left frontal subgaleal hematoma measuring up to 1.3 cm 
without 
underlying fracture. 
2. No acute intracranial hemorrhage or definite acute large 
territorial 
infarction identified. 
3. Redemonstration of known early chronic right ACA and chronic 
right PCA 
distribution infarcts. 
4. Paranasal sinus disease with findings suggestive of acute 
sinusitis, as 
described. 

CT C-SPINE W/O CONTRAST ___:
IMPRESSION:
1. Diffuse osteopenia limits evaluation for acute fractures. 
2. No definite evidence of acute fracture. 
3. Multilevel degenerative changes as described above, most 
notable for mild canal narrowing at C7-T1.  If clinically 
indicated, consider cervical spine MRI for further evaluation. 
4. Limited imaging lungs demonstrate bilateral pleural effusions 
and 
nonspecific patchy opacities.  If clinically indicated, consider 
correlation with dedicated chest imaging. 
5. Left 1.8 x 1.7 cm thyroid nodule, grossly unchanged compared 
to prior 
cervical spine CT, better visualized on ___ 
thyroidultrasound. 
6. Nonspecific subcentimeter lymph nodes as described. 

ANKLE (AP, MORTISE & ___:
IMPRESSION:  
No acute fracture. 

CT Chest ABD Pelvis W Contrast ___:
IMPRESSION:  
1. Acute nondisplaced fracture through the anterolateral left 
seventh rib.  No other fracture or evidence of acute 
intrathoracic or intra-abdominal injury. 
2. Patchy bilateral ground-glass opacities in the mid upper 
lungs which likely reflects pulmonary edema though superimposed 
infection cannot be excluded. 
3. Moderate bilateral pleural effusions. 
4. Persistent left UPJ obstruction with moderate hydronephrosis, 
similar in appearance to prior. 
5. Multi-septated left adnexal lesion measuring up to 5.1 cm on 
today's 
examination which could reflect malignancy given patient's age 
and should be further characterized with pelvic ultrasound or MR 
on ___ nonemergent basis. 

Discharge Labs:
___ 06:00AM BLOOD Glucose-127* UreaN-16 Creat-0.8 Na-139 
K-3.5 Cl-101 HCO3-24 AnGap-14
___ 05:35AM BLOOD ___ PTT-90.0* ___
 
Brief Hospital Course:
ASSESSMENT: Ms. ___ is a ___ with hx of recent urosepsis, 
NSTEMI and stroke one week prior to admission presenting with 
fall complicated by forehead hematoma and left 7th rib fracture. 
She was evaluated by surgery with no plan for urgent surgery. 
She was subsequently admitted to medicine for workup of fall and 
found to have a UTI and subtheraputic INR. She was bridged to a 
therapeutic INR prior to discharge and discharged on warfarin 
2.5mg daily. Her hematoma was observed and was stable. 

ACUTE ISSUES:
# Sub-galeal hematoma 
# Left 7th rib fracture
# Unwitnessed fall: 
The patient presented with a fall. she was observed on telemetry 
for 24 hours without evidence of arrhythmia. Orthostatic vital 
signs were checked on admission and were negative. She was found 
to have a UTI which likely worsened patients confusion and 
leading to fall. The patient has dementia at baseline and often 
gets confused and tries to get out of her chair/bed. The 
patients rib fracture does not need surgery follow-up. The 
patients was found to have a subglial hematoma on her left 
forehead. She had a head CT which showed no intracranial bleed. 
Surgery was consulted and did not recommended observation. The 
patients hematoma was stable during hospitalization and will 
likely resolve in the coming weeks. Her neurological exam was 
unchanged from baseline. She was discharged with cefpodoxime to 
complete a 5 day course for UTI.

#UTI
The patient was found to have UTI for CITROBACTER KOSERI. The 
patient did not have dysuria but did have increased urinary 
frequency. Of note, the patient has dementia and frequently asks 
to use the restroom as part of a tic from her dementia. She was 
initially treated with ceftriaxone on ___ and was 
transitioned to cefpodomixe to complete ___trial Fibrillation
The patient has a known history of atrial fibrillation with a 
Chadsvasc of 7. She was found to have subtheraputic INR. She was 
bridged to a therapeutic INR on heparin and was discharged on a 
warfarin dose of 2.5mg with an INR goal of ___. She was 
continued on home metoprolol with good rate control. 

# Left leg spasticity
- The patient had had leg spasticity since her stroke recently. 
She was previously treated with clonazepam at night. However 
with her recent fall this was held to limit deliriogenic 
medications. Neurology suggested trial of baclofen at night to 
reduce leg spasms. This was used with good effect. The patient 
will follow up with neurology as an outpatient for further 
management 

CHRONIC ISSUES
==============
# Embolic strokes (greatest in R ACA): 
Patient with stable neurology exam from last admission. She was 
continued on home anticoagulation with follow up as an 
outpatient 

# Severe MR
# Chronic Diastolic CHF: TTE last admission showing new RWMAs, 
worsened LVEF to 45%, severe MR 4+. This admission with 
bilateral pleural effusions but clinically dry on exam, not on 
diuretics at home. Bed weight 145 from 149lb on last discharge. 
She was diuresed with 20mg IV furosemide once and did not have 
reaccumulation of swelling. 

# CAD s/p CABG
# Chronic LBBB
The patient was continued on home Atorvastatin, ASA, Plavix and 
Metoprolol. Warfarin was bridged as above and continued at 2.5mg 
daily as an outpatient with an INR goal of ___ for atrial 
fibrillation. 

# Anemia
# Thrombocytopenia
# Hx of CLL: Had been stable as an outpt. Patient did not 
require transfusion.

# Dementia/psych
# Metabolic encephalopathy: 
Held home rivastigmine 3 BID (given nonformulary), continued 
home citalopram 40mg QD

# GERD: 
Continued home pantoprazole 

# Insomnia: 
Continued ramelteon prn for sleep

# Goals of Care: During previous admission, palliative care met 
with patient's son to discuss options in long term planning, 
felt they may benefit from palliative care involvement in the 
future pending patient's clinical course. Her Code status was 
changed to DNR/DNI on ___. 

Transitional Issues:
====================
[] Patient discharged to complete a 5 day course (___) of 
cefpodoxime 200mg BID for citrobacter UTI. 
[] Recommend fall precautions. 
[] Began baclofen 2.5 mg QHS for leg spasm at night, which can 
be further uptitrated as needed. Clonazepam was stopped. 
[] Patient discharged on warfarin 2.5mg daily for afib. 
Discharge INR 2.0, with goal ___. INR should be checked on ___, 
and then as needed to ensure this is an adequate dose
[] Final blood cultures pending at time of discharge, to be 
followed by inpatient team. 
# Code - DNR/DNI
# Contact - ___ (son) - ___

>30 minutes spent coordinating discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Citalopram 40 mg PO DAILY 
4. Clopidogrel 75 mg PO DAILY to prevent stent thrombosis 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. rivastigmine 3 mg oral BID 
7. Pantoprazole 40 mg PO Q24H 
8. Vitamin D ___ UNIT PO DAILY 
9. ClonazePAM 0.5 mg PO DAILY Left leg spasm 
10. Warfarin 2.5 mg PO DAILY16 
11. TraZODone 12.5 mg PO QHS 

 
Discharge Medications:
1.  Baclofen 2.5 mg PO QHS  
2.  Cefpodoxime Proxetil 200 mg PO Q12H Duration: 3 Days  
3.  Ramelteon 8 mg PO QHS:PRN insomnia  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  Citalopram 40 mg PO DAILY  
7.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis  
8.  Metoprolol Succinate XL 25 mg PO DAILY  
9.  Pantoprazole 40 mg PO Q24H  
10.  rivastigmine 3 mg oral BID  
11.  TraZODone 12.5 mg PO QHS  
12.  Vitamin D ___ UNIT PO DAILY  
13.  Warfarin 2.5 mg PO DAILY16  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
==================
Sub-galeal hematoma 
Left 7th rib fracture
Mechanical fall
UTI

Chronic Conditions
==================
Embolic strokes 
Afib/RVR (CHADSVASC 7)
Severe MR
___ CHF
___
Diabetes Mellitus type II
Dementia/psych
GERD
Insomnia
Goals of Care

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to be a part of your care team at ___ 
___. You were admitted after you had a fall 
and hit your head. A cat scan of your head showed that you did 
not have any bleeding in your head, but you do have a rib 
fracture. You were seen by the surgery team, and it was 
determined that thankfully you do not need any surgery. We also 
found that you have a urinary tract infection, and treated you 
with antibiotics, which you should continue to take at rehab. 

Please see below for your medications and follow up 
appointments.

Again, it was very nice to meet you, and we wish you the best.

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___